US04480100
[2-[[3-(Dimethylamino)propyl](3-amino-2-pyridinyl)amino]phenyl]phenylmethanone
A mixture of (0.05 mole) [2-[[3-(dimethylamino)propyl](3-nitro-2-pyridinyl)amino]phenyl]phenylmethanone, 13 g, (0.20 mole) of zinc dust, 2 g (0.05 mole) of sodium hydroxide in 75 ml ethanol and 25 ml water is stirred under reflux for 1 hr. The mixture is filtered and evaporated under reduced pressure. The residue is dissolved in methylene chloride and the resulting solution is dried over magnesium sulfate and decolorized with charcoal and filtered. The filtrate is evaporated to dryness to give the title compound in crude mixture.

reactant | [2-[[3-(dimethylamino)propyl](3-nitro-2-pyridinyl)amino]phenyl]phenylmethanone | 0.05 mole | CN(CCCN(C1=C(C=CC=C1)C(=O)C1=CC=CC=C1)C1=NC=CC=C1[N+](=O)[O-])C | C23H24N4O3
reactant | sodium hydroxide | 0.05 mole, 2 g | [OH-].[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
solvent | water | 25 ml | O | H2O
catalyst | zinc | 0.20 mole | [Zn] | Zn
product | [2-[[3-(Dimethylamino)propyl](3-amino-2-pyridinyl)amino]phenyl]phenylmethanone | CN(CCCN(C1=C(C=CC=C1)C(=O)C1=CC=CC=C1)C1=NC=CC=C1N)C | C23H26N4O
